US07939666B2
Stage 2: Synthesis of (S)-2-Amino-4-methyl-pentanoic acid cyclopentyl ester
A solution of (S)-2-amino-4-methyl-pentanoic acid cyclopentyl ester toluene-4-sulfonic acid (2.57 g, 0.013 mol) in DCM (5 ml) was washed with saturated aqueous NaHCO3 solution (2×3 ml). The combined aqueous layers were back extracted with DCM (3×4 ml). The combined organic layers were dried (MgSO4), and the solvent removed in vacuo to give a colourless oil (1.10 g, 80% yield). 1H NMR (300 MHz, CDCl3), δ: 0.90 (6H, t, CH3×2, J=6.4 Hz), 1.23-1.94 (11H, m, 5×CH2, CH), 3.38 (1H, dd, CH, J=8.4, 5.9 Hz), 5.11-5.22 (1H, m, CH).

reactant | (S)-2-amino-4-methyl-pentanoic acid cyclopentyl ester toluene-4-sulfonic acid | 0.013 mol, 2.57 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(CCCC1)OC([C@H](CC(C)C)N)=O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
product | (S)-2-Amino-4-methyl-pentanoic acid cyclopentyl ester | 1.10 g, 80% yield | C1(CCCC1)OC([C@H](CC(C)C)N)=O | C11H21NO2
